US04430339
(b) 5-Cyclooctyl-2-methylenevaleric acid ethyl ester
5.5 g of 5-cyclooctyl-2-methylenevaleric acid ethyl ester, in the form of an oil, which is purified by chromatography on silica gel (migrating agent: 95:5 petroleum ether/ethyl acetate), are obtained by the procedure described in Example (1b) from 10.1 g of (3-cyclooctylpropyl)-malonic acid ethyl ester, 1.28 g of paraformaldehyde, 10 ml of pyridine and 0.5 ml of piperidine.

reactant | (3-cyclooctylpropyl)-malonic acid ethyl ester | 10.1 g | C(C)OC(C(C(=O)O)CCCC1CCCCCCC1)=O | C16H28O4
reactant | paraformaldehyde | 1.28 g | C=O | CH2O
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-Cyclooctyl-2-methylenevaleric acid ethyl ester | C(C)OC(C(CCCC1CCCCCCC1)=C)=O | C16H28O2
